US05494919
To a stirred solution of 4-phenylpiperidine (10 g, 0.062 mole) in methanol (30 mL), was added a solution of sodium tungstate dihydrate (0.82 g, 2.48 mmole) in water (7 mL). With stirring at 0°, hydrogen peroxide (30%, 13.9 mL, 0.136 mole) was added dropwise. After complete addition, the reaction mixture was stirred for an additional 3 hours, and then sodium cyanide (4.56 g, 0.093 mole) was added, followed by 4 N HCl (22 mL, 0.088 mole). The reaction mixture was stirred overnight during which time it warmed to room temperature. The solid was collected by filtration through glass sinter funnel, and the solution was neutralized to pH 7 and was extracted with dichloromethane. The organic extract was combined with the solid and dried over MgSO4 and evaporated. Flash column purification eluting with 40% ethyl acetate in hexane gave 2-cyano-1-hydroxy-4-phenylpiperidine(8.6 g).

reactant | 4-phenylpiperidine | 0.062 mole, 10 g | C1(=CC=CC=C1)C1CCNCC1 | C11H15N
reactant | hydrogen peroxide | 0.136 mole, 13.9 mL | OO | H2O2
reactant | sodium cyanide | 0.093 mole, 4.56 g | [C-]#N.[Na+]
reactant | HCl | 0.088 mole, 4 N, 22 mL | Cl | ClH
reactant | methanol | 30 mL | CO | CH4O
solvent | water | 7 mL | O | H2O
catalyst | sodium tungstate dihydrate | 2.48 mmole, 0.82 g | O.O.[O-][W](=O)(=O)[O-].[Na+].[Na+]
product | 2-cyano-1-hydroxy-4-phenylpiperidine | 8.6 g | C(#N)C1N(CCC(C1)C1=CC=CC=C1)O | C12H14N2O
